US08012982B2
Step 2: 4-bromo-N-(4-hydroxyphenyl)benzamide
To a solution of 4-bromobenzoic acid in DMF (0.10 M), 3 eq of NMM, 1.5 eq of Py-BOP and 1.1 eq of 4-aminophenol were added and the mixture was stirred at RT for 20 min. DMF was concentrated in vacuo and the residue diluted with EtOAc and aqueous HCl (1N). The resultant precipitate was filtered off and dried in vacuo to afford the title compound (73%); MS (ES+) m/z 292 (M+H)+, m/z 294 (M+H)+

reactant | 4-bromobenzoic acid | BrC1=CC=C(C(=O)O)C=C1 | C7H5BrO2
reactant | NMM | 3 eq | CN1CCOCC1 | C5H11NO
reactant | BOP | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 4-aminophenol | 1.1 eq | NC1=CC=C(C=C1)O | C6H7NO
solvent | DMF | 0.10 M | CN(C)C=O | C3H7NO
product | 4-bromo-N-(4-hydroxyphenyl)benzamide | 73% | BrC1=CC=C(C(=O)NC2=CC=C(C=C2)O)C=C1 | C13H10BrNO2
